US04588749
N-(2-(4-Methylphenyl)-1,1-dimethylethyl)-2-hydroxy-2-phenyl ethanamine
The title compound was prepared in the manner described in Example 9 using phenylglyoxal and 2-(4-methylphenyl)-1,1-dimethylethanamine. The chromatographed material was recrystallized from cyclohexane to give the title compound m.p. 137. τ(CDCl3 +d6DMSO) 8.95 (6H, s), 7.7 (3H, s), 7.35 (2H, s), 7.0-7.3 (2H, dd), 5.3 (1H, dd), 2.9 (4H, s), 2.5-2.7 (5H, m).

reactant | phenylglyoxal | C1(=CC=CC=C1)C(=O)C=O | C8H6O2
reactant | 2-(4-methylphenyl)-1,1-dimethylethanamine | CC1=CC=C(C=C1)CC(N)(C)C | C11H17N
product | N-(2-(4-Methylphenyl)-1,1-dimethylethyl)-2-hydroxy-2-phenyl ethanamine | CC1=CC=C(C=C1)CC(C)(C)NCC(C1=CC=CC=C1)O | C19H25NO
